US05175177
a) 3-{3,5-Dimethyl-4-[3-(trifluoroacetylethinyl)propoxy]phenyl}-5-methyl-1,2,4-oxadiazole
A solution of 2.0 g 3-[3,5-dimethyl-4-(3-ethinylpropoxy)phenyl]-5-methyl-1,2,4-oxadiazole, prepared by a procedure similar to that described in Example 1(b), in 50 mls anhydrous tetrahydrofuran in an argon atmosphere was chilled to about -70° C. To this solution there was added 3.7 mls butyl lithium followed by ethyl trifluoroacetate and, after ten minutes, 1.5 mls boron trifluoride ethereate. The solution was stirred for five hours at -70° C. and then overnight without cooling, quenched with 20 mls aqueous ammonium chloride solution, diluted with water and extracted with ethyl ether. The ethyl ether extracts were dried (Na2SO4) and concentrated in vacuo. The residue was subjected to column chromatography (silica gel; 20:80 to 40:60 ethyl ether/hexane) to give 497 mg of the title compound as an oil.

reactant | 3-[3,5-dimethyl-4-(3-ethinylpropoxy)phenyl]-5-methyl-1,2,4-oxadiazole | 2.0 g | CC=1C=C(C=C(C1OCCCC#C)C)C1=NOC(=N1)C | C16H18N2O2
reactant | butyl lithium | 3.7 mls | C(CCC)[Li]
reactant | ethyl trifluoroacetate | FC(C(=O)OCC)(F)F | C4H5F3O2
reactant | boron trifluoride | 1.5 mls | B(F)(F)F | BF3
solvent | tetrahydrofuran | 50 mls | O1CCCC1 | C4H8O
product | 3-{3,5-Dimethyl-4-[3-(trifluoroacetylethinyl)propoxy]phenyl}-5-methyl-1,2,4-oxadiazole | 497 mg | CC=1C=C(C=C(C1OCCCC#CC(C(F)(F)F)=O)C)C1=NOC(=N1)C | C18H17F3N2O3
